Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
penicillin
 
Attending: ___
 
Chief Complaint:
abdominal distention
 
Major Surgical or Invasive Procedure:
Coronary angiography ___ 

 
History of Present Illness:
Patient is a ___ M with PMH of
cryptogenic cirrhosis and nonocclusive portal vein/superior
mesenteric vein thrombosis, previously decompensated by variceal
bleed in ___ and subsequent eradication with banding, who
presents for direct admission from home for portal vein
thrombectomy and possible cardiology workup/intervention.

Patient was recently seen in liver clinic at the beginning of
___, at which time he had a creatinine of 1.5. His diuretic
dose was reduced. He returned to clinic on ___ reporting
abdominal distention. He denied any hematemesis, melena,
confusion or recent falls. He reported compliance with all
medications and a low sodium diet. He did have some edema since
starting reduced diuretic dose. He had a CT on ___ that
showed progression in his PV and SMV thrombosis. He was admitted
for PV revascularization, cardiac echo and workup for possible
TIPS and possible liver transplantation. 

Upon arrival to the floor, patient agrees with above history. He
reports that his primary concern is dizziness, which he has been
experiencing since ___. He also reports some confusion,
especially in recalling the date. He was prescribed lactulose at
his last clinic appointment on ___ but he has not started
taking it. His last BM was the morning of the day prior to
admission. He endorses a decreased appetite recently as well as
fatigue. He denies any fever, chills, melena, hematochezia,
nausea, vomiting or chest pain. He reports dyspnea on exertion
after walking for several minutes that has been present for some
time. He denies any worsening abdominal distension, but per his
wife and Dr. ___ note, he has had worsening abdominal
distension recently. 

 
Past Medical History:
HTN  
Gout  
Cirrosis  
Esophageal Varices  
 
Social History:
___
Family History:
No known family history of cirrosis, GI issues. Father had CAD 
and died of MI. Mother had macular degeneration.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM:
================================
VITALS: ___ Temp: 98.2 PO BP: 116/71 R Sitting HR: 64
RR: 18 O2 sat: 98% O2 delivery: Ra 
GENERAL: Alert and interactive male in NAD. 
HEENT: NCAT. PERRL, EOMI. Sclera anicteric and without 
injection.
MMM. 
NECK: No cervical lymphadenopathy. No JVD.
CARDIAC: RRR. Audible S1 and S2. ___ crescendo-decrescendo
systolic murmur, radiates to carotids
LUNGS: CTABL. No wheezes, rhonchi or rales. No increased work of
breathing on RA.
ABDOMEN: +BS. Abdomen soft, distended with reducible umbilical
hernia. Tender to palpation in LUQ only. No guarding or rebound
tenderness. Positive fluid wave. 
EXTREMITIES: Pulses DP/Radial 2+ bilaterally. Trace bilateral ___
edema. 
SKIN: Warm. No rash.
NEUROLOGIC: AOx3, but patient states he has had confusion with
dates for several days and that is wife had just told him the
date prior to interview. No focal neurologic deficits. ___
strength throughout with SILT. Gait not tested. No asterixis.
+Word finding difficulty and slow to respond to questions. 

DISCHARGE PHYSICAL EXAM:
===================================
___ 0742 Temp: 98.2 PO BP: 90/55 R Lying HR: 66 RR: 18 O2
sat: 98% O2 delivery: Ra 

GEN: in no acute distress
HEENT: +scleral icterus, MMM
CV: RRR, nl S1/S2, ___ crescendo-decrescendo high-pitched
systolic murmur radiating to carotids
LUNGS: CTAB, no wrr
ABD: NABS, soft, mildly distended, nontender, no 
guarding/rebound
EXT: wwp, no ___ edema
NEURO: A/Ox3, moves all extremities, no asterixis
SKIN: warm, dry, no jaundice
 
Pertinent Results:
ADMISSION LABS:
============================================
___ 06:28AM BLOOD WBC-2.1* RBC-3.33* Hgb-11.3* Hct-32.5* 
MCV-98 MCH-33.9* MCHC-34.8 RDW-13.8 RDWSD-49.3* Plt Ct-39*
___ 06:28AM BLOOD ___ PTT-31.0 ___
___ 06:28AM BLOOD Glucose-102* UreaN-20 Creat-1.3* Na-138 
K-3.8 Cl-108 HCO3-21* AnGap-9*
___ 06:28AM BLOOD ALT-32 AST-50* LD(LDH)-218 AlkPhos-96 
TotBili-1.1
___ 06:28AM BLOOD Albumin-2.7* Calcium-8.3* Phos-3.0 Mg-1.6

DISCHARGE LABS:
============================================
___ 07:09AM BLOOD WBC-1.6* RBC-2.97* Hgb-9.9* Hct-29.7* 
MCV-100* MCH-33.3* MCHC-33.3 RDW-14.6 RDWSD-52.9* Plt Ct-36*
___ 07:09AM BLOOD ___ PTT-34.3 ___
___ 07:09AM BLOOD Glucose-118* UreaN-21* Creat-1.1 Na-141 
K-4.1 Cl-112* HCO3-21* AnGap-8*
___ 07:09AM BLOOD ALT-22 AST-37 AlkPhos-79 TotBili-0.8
___ 07:09AM BLOOD Calcium-8.8 Phos-2.8 Mg-1.7

OTHER PERTINENT LABS:
============================================
___ 05:50AM BLOOD HIV Ab-NEG
___ 05:50AM BLOOD calTIBC-172* TRF-132*
___ 05:50AM BLOOD Triglyc-88 HDL-30* CHOL/HD-5.0 
LDLcalc-103
___ 05:50AM BLOOD 25VitD-10*
___ 05:50AM BLOOD HBsAg-NEG HBsAb-NEG HBcAb-NEG HAV Ab-POS*
___ 07:10AM BLOOD PSA-<0.03
___ 05:50AM BLOOD CEA-3.9
___ 05:50AM BLOOD IgA-291
___ 05:50AM BLOOD Ethanol-NEG
___ 05:50AM BLOOD HCV Ab-NEG
___ 06:10PM BLOOD Type-ART pO2-72* pCO2-30* pH-7.48* 
calTCO2-23 Base XS-0 NOT INTUBATED

MICROBIOLOGY:
======================================
Rubeola IgG positive
Rubella IgG positive
Mumps IgG positive
VZV IgG negative
CMV IgG and IgM positive
EBV IgG positive, IgM negative
Toxo IgG negative
RPR nonreactive

IMAGING:
============================================
___ Cardiovascular Transthoracic Echo Report 
The left atrial volume index is moderately increased. The right 
atrium is mildly enlarged. There is no evidence for an atrial 
septal defect by 2D/color Doppler. There is mild symmetric left 
ventricular hypertrophy with a normal cavity size. There is 
normal regional and global left ventricular systolic function. 
The visually estimated left ventricular ejection fraction is 
>=65%. Left ventricular cardiac index is normal (>2.5 L/min/m2). 
There is no resting left ventricular outflow tract gradient. 
Normal right ventricular cavity size with normal free wall 
motion. The aortic sinus is mildly dilated with mildly dilated 
ascending aorta. The aortic arch is mildly dilated. The aortic 
valve leaflets (3) appear structurally normal. There is SEVERE 
aortic valve stenosis (valve area index less than 0.6 cm2/m2). 
There is an eccentric, anterior mitral leaflet directed jet of 
mild to moderate [___] aortic regurgitation. The mitral valve 
leaflets appear structurally normal with no mitral valve 
prolapse. There is trivial mitral regurgitation. The tricuspid 
valve leaflets appear structurally normal. There is physiologic 
tricuspid
regurgitation. The estimated pulmonary artery systolic pressure 
is normal. There is no pericardial effusion.
IMPRESSION: Mild to moderate left ventricular hypertrophy with 
normal global/regional systolic function. Severe aortic 
stenosis. Mildly dilated thoracic aorta. Mild to moderate aortic 
regurgitation.

___ TAVR AND TORSO CTA 
FINDINGS:  
EXTRACARDIAC FINDINGS: 
CT CHEST WITH CONTRAST: Visualized thyroid gland is 
unremarkable.  There is no supraclavicular, axillary, 
mediastinal, or hilar lymphadenopathy.  Heart is normal in size. 
 There is no pericardial effusion.  There are mild-to-moderate 
coronary artery calcifications.  As discussed below, the aortic 
valve is tricuspid and heavily calcified with thickening of the 
leaflets.  No suggestion of left atrial thrombus.  There is no 
pleural effusion or pneumothorax.  There is bibasilar 
atelectasis without concerning parenchymal consolidation or 
nodularity.  Airways are patent to the subsegmental level.  
There is no centrally located pulmonary embolus.  Pulmonary 
vasculature is enlarged, with main, left, and right pulmonary 
arteries measuring 3.1, 3.0, and 2.8 cm, respectively.  These 
findings are suggestive of sequela of pulmonary arterial 
hypertension.  Soft tissues demonstrate symmetric gynecomastia, 
expected in this patient with known cirrhosis.  Additionally, 
there are significant paraesophageal varices, which are 
partially visualized in the lower chest, in the region of the 
esophageal hiatus.   
CT ABDOMEN/PELVIS WITH CONTRAST: Please see dictation from 
concurrent CTA 
abdomen and pelvis for full description of subdiaphragmatic 
findings and 
osseous structures in this region.  
OSSEOUS STRUCTURES: There are no concerning sclerotic or lytic 
lesions in the thoracic spine or thoracic cage.  No acute 
compression deformity or acute fracture of the major structures 
of the bony thorax.  
CTA: Due to severe liver cirrhosis, there is poor arterial 
timing, which limits the cardiac CTA portion of this exam.  
Overall, cardiac portion of this exam is nondiagnostic. 
CARDIAC: Heart is normal in size.  Mild-to-moderate coronary 
artery 
calcifications are present.  Aortic valve is tricuspid and 
heavily calcified with thickened leaflets.  No suggestion of 
left atrial thrombus on this limited exam.  Pericardium is 
normal without pericardial effusion. 
PULMONARY ARTERIES: Pulmonary vasculature is enlarged, as above. 
Findings 
likely represent sequela of pulmonary arterial hypertension. 
AORTA:  The thoracic and abdominal aorta are normal in size with 
mild 
calcifications. 
MEASUREMENTS: To follow an addendum pending 3D reformats. 
IMPRESSION: 
1. Aortic valve stenosis without evidence of aortic aneurysm. 
Cardiac portion of the examination is limited due to poor 
arterial contrast timing due to severe liver cirrhosis.  If 
necessary for preprocedural planning, this portion of the exam 
can be repeated. 
2. Measurements of subclavian and femoral arteries to follow in 
an addendum pending 3D reformats. 
3. Gynecomastia and paraesophageal varices, consistent with 
sequela of known cirrhosis. 

___ CTA ABD & PELVIS 
ABDOMEN: 
HEPATOBILIARY: Liver is shrunken and nodular consistent with 
cirrhosis.  There is relative hypertrophy of the caudate lobe.  
No focal liver lesions are seen. No intra or extrahepatic 
biliary dilation.  Gallbladder contains gallstones but is 
otherwise unremarkable.  
PANCREAS: The pancreas has normal attenuation throughout, 
without evidence of focal lesions or pancreatic ductal 
dilatation.  There is no peripancreatic stranding.  
SPLEEN: Spleen is markedly enlarged measuring up to 23.1 cm, but 
is otherwise unremarkable.  Extensive perisplenic varices are 
noted. 
ADRENALS: The right and left adrenal glands are normal in size 
and shape.  
URINARY: Right kidney is normal in size and shape without 
evidence of 
hydronephrosis.  Left kidney is markedly atrophic.  A simple 
cyst in the 
interpolar region of the right kidney measures up to 3.6 cm.  A 
peripherally calcified cyst in the lower pole of the left kidney 
measures up to 1.6 cm.  
GASTROINTESTINAL: Small to medium-sized hiatal hernia.  Stomach 
is otherwise unremarkable.  Small bowel loops demonstrate normal 
caliber, wall thickness, and enhancement throughout.  The colon 
and rectum are within normal limits. The appendix is normal. 
There is small volume abdominopelvic ascites.   
PELVIS: The urinary bladder and distal ureters are unremarkable. 
  
REPRODUCTIVE ORGANS: Prostate contains a large coarse 
calcification but is 
otherwise unremarkable.  The left seminal vesicle is very 
smaller absent 
suggesting that the left renal abnormality may be congenital.  
LYMPH NODES: There is no retroperitoneal or mesenteric 
lymphadenopathy.  There is no pelvic or inguinal 
lymphadenopathy.  
VASCULAR: There is no abdominal aortic aneurysm.  Mild 
atherosclerotic disease is noted.  The celiac axis is focally 
dilated proximally measuring up to 15 mm, unchanged.  The right 
common iliac artery is mildly ectatic measuring up to 19 mm in 
diameter.  Previously seen thrombus within the main portal vein 
as well as of the SMV the and splenic veins are not well 
appreciated on this exam due to arterial contrast timing.  
Extensive upper abdominal varices are noted. 
BONES: There is no evidence of worrisome osseous lesions or 
acute fracture.  
SOFT TISSUES: Moderate symmetric gynecomastia is noted.  Fat 
containing 
umbilical hernia is noted. 
IMPRESSION:  
1. Cirrhosis with sequela of portal hypertension including 
marked 
splenomegaly, extensive upper abdominal varices, and small 
volume 
abdominopelvic ascites.  Previously seen thrombus within the 
main portal vein, SMV, and splenic veins is not well 
demonstrated on this arterial phase exam.  
2. Dilatation of the celiac axis and right common iliac artery.  
Followup 
ultrasound should be considered for surveillance in 1 to ___ 
years. 

OTHER DIAGNOSTIC:
===============================================
___ ENDOSCOPY
No esophageal or gastric varices. Portal hypertensive 
gastropathy present. Normal duodenum. 

___ COLONOSCOPY
Multiple nonbleeding diverticula in the sigmoid colon. A few 
nonbleeding angioectasias were seen. Prominent rectal veins. 
Inadequate prep for examining small polyps. 

___ CARDIAC CATH
30% stenosis of Cx.

 
Brief Hospital Course:
SUMMARY:
=======================================================
Mr. ___ is a ___ year old man with history of cryptogenic 
cirrhosis (Child ___ B, MELD 15 on admission) decompensated by 
varices s/p banding (___) and progressive non-occlusive portal 
vein/SMV thrombosis, who presented for evaluation for 
thrombecty/TIPS given worsening thrombosis. It was determined 
that TIPS would be the optimal procedure for his thrombosis, but 
would not be done unless he was a liver transplant candidate. 
Furthermore, he has severe AS and it was felt that he required 
AVR prior to any other procedures given his high risk. He 
partially completed evaluation for TAVR and liver 
transplantation while he was admitted, with plan to complete the 
evaluation as an outpatient given his clinical stability. 

ACUTE ISSUES:
=======================================================
#Portal vein thrombosis
#SMV thrombosis 
Patient has a history of nonocclusive portal vein/SMV 
thrombosis, first noted on imaging in ___. Between ___ and 
___, he had progression of fibrosis including portal 
and superior mesenteric veins. He was admitted for consideration 
of thrombectomy versus TIPS by ___. The ___ team felt that 
thrombectomy would be unlikely to provide benefit and thus 
recommended TIPS procedure. However, as noted below, the patient 
was found to have severe aortic stenosis so the TIPS was 
deferred until repair of his aortic valve. 

#Severe aortic stenosis
Last TTE in ___ demonstrated moderate to severe aortic 
valve stenosis. On admission the patient endorsed 
lightheadedness and dyspnea on exertion limiting his daily 
function, thought to be secondary to his AS. Repeat TTE during 
this admission found progressive ALS with valve area 1.1 cm2. 
Cardiology and structural heart teams were consulted and felt 
that he was a good TAVR candidate. He was evaluated by cardiac 
surgery and found to be not a surgical AVR candidate. He also 
underwent TAVR CT and left heart cath for planning purposes. His 
coronary angiography was overall normal with only 30% stenosis 
at the proximal left circumflex and no other clinically 
significant disease. Per the cardiology structural team they 
will plan on reviewing his CT chest again and consider repeating 
it if necessary. They will arrange his TAVR as an outpatient. 

#Acute on chronic kidney injury
On admission the patient's creatinine was 1.3 with a baseline of 
1.0-1.2 up to ___, after which time his creatinine remains 
elevated (1.3-1.5). Etiology was unclear but was felt to be 
secondary to hypovolemia in the setting of cirrhosis and 
diuresis. His diuretics were held on admission without 
improvement in his creatinine. He was also noted to be 
hypotensive with systolic blood pressures ___ on hospital day 2. 
He was started on midodrine and received albumin with 
improvement of his Cr back to baseline. 

#Hypotension
On admission the patient was made n.p.o. for possible endoscopy. 
Overnight he became hypotensive to the ___ (baseline 
systolic 80-100). He was given IV fluids and albumin with 
subsequent improvement. As above, during admission his diuretics 
were held and he was given small boluses of albumin to maintain 
euvolemia due to his tenuous volume status secondary to 
cirrhosis and aortic stenosis. He had no further episodes of 
hypotension.

#Cryptogenic cirrhosis (Childs B, MELD 15)
Hx of decompensation by variceal bleed in ___ s/p banding and 
ascites. As above his home Lasix and spironolactone were held. 
He was maintained on a low sodium diet. He was continued on 
lactulose 30 ml TID and rifaximin. He is potentially a 
transplant candidate, test workup was initiated in the hospital 
including infectious serologies, malignancy screening, lipid 
panel, PSA, Panorex, PFTs, EGD/Colonoscopy and TTE.

CHRONIC ISSUES:
=======================================================

#T2DM
Home Glargine was discontinued on last admission due to recent 
outpatient A1c of 5.1%. Thus the patient was managed on a 
Humalog sliding scale only. 

#Gout
Continued home allopurinol.

#GERD
Continued home pantoprazole.

#Iron deficiency anemia
Continued home ferrous sulfate.

TRANSITIONAL ISSUES:
=======================================================
[] Patient is a potential liver transplant candidate. Work-up 
was started in-house but needs to be completed as an outpatient 
prior to listing. 
[] Patient should be provided with panorex results for follow up 
with his outpt dentist 
[] His lactulose was increased from 15ml BID to 30ml TID as he 
was intermittently somnolent, and concern for HE at home.
[] patient restarted on his home diuretics, will need repeat 
labs (BMP) in 1 week 
[] patient with 30% stenosis of left circ but otherwise no CAD 
on cath from ___ 

Discharge Cr. 1.1 
Discharge Hgb: 9.9
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Allopurinol ___ mg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. Spironolactone 100 mg PO DAILY 
4. Furosemide 20 mg PO DAILY 
5. Midodrine 5 mg PO TID 
6. Lactulose 15 mL PO BID 
7. Rifaximin 550 mg PO BID 
8. Ferrous Sulfate 325 mg PO DAILY 
9. Magnesium Oxide 500 mg PO DAILY 
10. albuterol sulfate 0.63 mg/3 mL inhalation Q6H:PRN bronchitis 


 
Discharge Medications:
1.  Multivitamins W/minerals 1 TAB PO DAILY 
RX *multivitamin,tx-minerals  1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0 
2.  Vitamin D 1000 UNIT PO DAILY 
RX *ergocalciferol (vitamin D2) 2,000 unit 1 tablet(s) by mouth 
daily Disp #*30 Tablet Refills:*0 
3.  Lactulose 30 mL PO TID  
4.  albuterol sulfate 0.63 mg/3 mL inhalation Q6H:PRN bronchitis 
 
5.  Allopurinol ___ mg PO DAILY  
6.  Ferrous Sulfate 325 mg PO DAILY  
7.  Furosemide 20 mg PO DAILY  
8.  Magnesium Oxide 500 mg PO DAILY  
9.  Midodrine 5 mg PO TID  
10.  Pantoprazole 40 mg PO Q24H  
11.  Rifaximin 550 mg PO BID  
12.  Spironolactone 100 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
PRIMARY:
#Portal vein/superior mesenteric vein nonocclusive thrombosis
#Severe aortic stenosis
#Acute on chronic kidney injury

SECONDARY:
#Cryptogenic cirrhosis 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted to the hospital because you had a clot in your 
veins around the liver. 

WHAT HAPPENED WHILE YOU WERE IN THE HOSPITAL?
- You had imaging of the heart which showed a problem with the 
aortic valve.
- You were evaluated by several different teams (Interventional 
Radiology, Cardiology, Cardiac Surgery) to look at the issue 
with blood clots and your heart. It was determined that you need 
an aortic valve replacement before anything more can be done 
about the blood clots. 
- You improved and were ready to leave the hospital.
- You had a procedure called a cardiac cath which did not show 
any significant coronary artery disease 

WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?
- Take all of your medications as prescribed (listed below)
- Keep your follow up appointments with your doctors
- Weigh yourself every morning, before you eat or take your 
medications. Call your doctor if your weight changes by more 
than 3 pounds
- Please stick to a low salt diet and monitor your fluid intake
- If you experience any of the danger signs listed below please 
call your primary care doctor or come to the emergency 
department immediately.

It was a pleasure participating in your care. We wish you the 
best!
- Your ___ Care Team

 
Followup Instructions:
___